US07553842B2
Step B: Preparation of 3-(3-Hydroxypropoxy)-dihydrofuran-2(3H)-one:
Propane-1,3-diol (0.050 g, 0.657 mmol) was dissolved in dichloromethane (6.5 mL) and treated with rhodium (II) acetate (3 mg) then solution was heated to reflux. One third of a solution (ca. 2 mL) of 3-diazodihydrofuran-2(3H)-one (0.283 g, 0.986 mmol) dissolved in a mixture of dichloromethane (3 mL) and diethyl ether (2.5 mL) was added dropwise to the hot solution then the solution was heated at reflux for 30 minutes. The solution of 3-diazodihydrofuran-2(3H)-one was added in two portions (ca. 2 mL each) to the refluxing mixture in a similar manner. The reaction was cooled to ambient temperature and concentrated in vacuo. The crude oil was chromatographed on silica gel eluting with ethyl acetate/hexanes (2:1). 3-(3-Hydroxypropoxy)dihydrofuran-2(3H)-one was recovered as a colorless oil (47 mg, 45%).

reactant | Propane-1,3-diol | 0.657 mmol, 0.050 g | C(CCO)O | C3H8O2
reactant | 3-diazodihydrofuran-2(3H)-one | 0.986 mmol, ca. 2 mL, 0.283 g | [N+](=[N-])=C1C(OCC1)=O | C4H4N2O2
solvent | dichloromethane | 6.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 2.5 mL | C(C)OCC | C4H10O
catalyst | rhodium (II) acetate | 3 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | 3-(3-Hydroxypropoxy)-dihydrofuran-2(3H)-one | OCCCOC1C(OCC1)=O | C7H12O4
